US04073894
Preparation of 2-(4-Methoxyphenyl)-4-chloromethyl-1,2,4-oxadiazolidin-3,5-dione
2-(4-Methoxyphenyl)-4-hydroxymethyl-1,2,4-oxadiazolidin-3,5-dione (0.03 mole) dissolved in chloroform (40 ml) and thionyl chloride (0.06 mole) dissolved in chloroform (10 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at reflux for a period of about 2 hours. After this time the reaction mixture is stripped of solvent under reduced pressure, leaving a residue. This residue is dissolved in toluene, and the toluene solution is stripped of solvent and unreacted starting materials to yield the desired product 2-(4-methoxyphenyl)-4-chloromethyl-1,2,4-oxadiazolidin-3,5-dione as the residue.

reactant | 2-(4-Methoxyphenyl)-4-hydroxymethyl-1,2,4-oxadiazolidin-3,5-dione | 0.03 mole | COC1=CC=C(C=C1)N1OC(N(C1=O)CO)=O | C10H10N2O5
reactant | thionyl chloride | 0.06 mole | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methoxyphenyl)-4-chloromethyl-1,2,4-oxadiazolidin-3,5-dione | COC1=CC=C(C=C1)N1OC(N(C1=O)CCl)=O | C10H9ClN2O4
